************************************** 
* SPICE STIMULI FILE 
* generated from 
************************************** 

Vsel0 sel0 0 PWL 0n 0 6000n 0 6001n VCC 12000n VCC 12001n 0 18000n 
+0 18001n VCC 24000n VCC 24001n 0 
Vsel1 sel1 0 PWL 0n 0 12000n 0 12001n VCC 24000n VCC 24001n 0 
Vvss vss 0 PWL 0n 0 
Vvcc vcc 0 PWL 0n VCC 

