************************************** 
* SPICE STIMULI FILE 
* generated from 
************************************** 

Vsel0 sel0 0 PWL 0n 0 40n 0 41n VCC 60n VCC 61n 0 220n 
+0 221n VCC 860n VCC 861n 0 
Vsel1 sel1 0 PWL 0n 0 60n 0 61n VCC 
Vvss vss 0 PWL 0n 0 
Ven_c en_c 0 PWL 0n VCC 960n VCC 961n 0 
Ven_r en_r 0 PWL 0n VCC 1020n VCC 1021n 0 
Vvcc vcc 0 PWL 0n VCC 

